US07196229B2
400 g (2.9 mol) of potassium carbonate were added to a solution of 134 g (0.73 mol) of 3-methyl-2-methylsulfonylaniline in 1200 ml of acetonitrile. At room temperature, 320 g (0.65 mol) of tetrabutylammonium tribromide were then added a little at a time, with vigorous stirring. The resulting precipitate was separated off, methyl tert-butyl ether was added to the filtrate and the filtrate was extracted with dilute hydrochloric acid and then with water. The organic phase was concentrated to dryness under reduced pressure. The resulting residue was once more taken up in methyl tert-butyl ether and washed two more times with hydrochloric acid and water. The organic phase was dried and concentrated under reduced pressure, giving 142 g (74%) of 4-bromo-3-methyl-2-methylsulfonylaniline as a brown solid of melting point 103–106° C.

reactant | potassium carbonate | 2.9 mol, 400 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methyl-2-methylsulfonylaniline | 0.73 mol, 134 g | CC=1C(=C(N)C=CC1)S(=O)(=O)C | C8H11NO2S
reactant | tetrabutylammonium tribromide | 0.65 mol, 320 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 1200 ml | C(C)#N | C2H3N
product | 4-bromo-3-methyl-2-methylsulfonylaniline | 142 g, 74% | BrC1=C(C(=C(N)C=C1)S(=O)(=O)C)C | C8H10BrNO2S
